US05207947
Synthesis of 4-n-undecanoyloxybenzoic acid
To a solution of p-hydroxybenzoic acid (3 g) and triethylamine (2.4 g) in dichloromethane (30 ml) were added undecanoyl chloride (4.5 g) and dimethylaminopyridine (0.2 g). The mixture was stirred at room temperature for about 20 hours. After dilute aqueous hydrochloric acid solution was added, an organic layer was separated by a funnel. After the solution was distilled to remove the solvent, the residue was washed with n-hexane and dried to obtain the titled compound (about 5 g).

reactant | p-hydroxybenzoic acid | 3 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | undecanoyl chloride | 4.5 g | C(CCCCCCCCCC)(=O)Cl | C11H21ClO
reactant | dimethylaminopyridine | 0.2 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | triethylamine | 2.4 g | C(C)N(CC)CC | C6H15N
product | 4-n-undecanoyloxybenzoic acid | about 5 g | C(CCCCCCCCCC)(=O)OC1=CC=C(C(=O)O)C=C1 | C18H26O4
